US07618960B2
Synthesis of [(2R,6S)-6-(3,4-difluorophenyl)piperidin-2-yl]methanol
LAH (90 mg) was added in three portions to a solution of methyl(2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate (300 mg) in THF (5 mL) at −15° C. over 15 minutes. The reaction solution was stirred at −15° C. for one hour, and water (0.1 mL), a 5 N sodium hydroxide solution (0.1 mL), and water (0.3 mL) were sequentially added to the reaction solution. The mixture was heated to room temperature and filtered through celite. The filtrate was concentrated under reduced pressure to obtain 267 mg of the title compound. The property value of the compound is as follows.

reactant | LAH | 90 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl(2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate | 300 mg | FC=1C=C(C=CC1F)[C@@H]1CCC[C@@H](N1)C(=O)OC | C13H15F2NO2
reactant | water | 0.1 mL | O | H2O
reactant | sodium hydroxide | 5 N, 0.1 mL | [OH-].[Na+]
reactant | water | 0.3 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [(2R,6S)-6-(3,4-difluorophenyl)piperidin-2-yl]methanol | 267 mg | FC=1C=C(C=CC1F)[C@@H]1CCC[C@@H](N1)CO | C12H15F2NO
